US20010056123A1
Step 2: Synthesis of ethyl 3-[4-cyano-2-(2-((1-(2-chloropyrimidine-4-yl)piperidine-4-carbonyl)amino)ethoxy)phenyl]propionate:
700 mg (2.60 mmol) of ethyl 1-(2-chloropyridine-4-yl)-4-piperidinecarboxylate was stirred in 5 ml of dioxane. 5 ml of 2 N hydrochloric acid was added to the obtained mixture, and they were stirred at 95° C. for 4 hours. The solvent was evaporated, and the obtained crude product was dissolved in 10 ml of DMF. 600 mg (2.16 mmol) of ethyl 3-[2-(2-aminoethoxy)-4-cyanophenyl]propionate hydrochloride, 548 mg (3.24 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.9 ml (6.48 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl 1-(2-chloropyridine-4-yl)-4-piperidinecarboxylate | 2.60 mmol, 700 mg | ClC1=NC=CC(=C1)N1CCC(CC1)C(=O)OCC | C13H17ClN2O2
reactant | hydrochloric acid | 2 N, 5 ml | Cl | ClH
reactant | ethyl 3-[2-(2-aminoethoxy)-4-cyanophenyl]propionate hydrochloride | 2.16 mmol, 600 mg | Cl.NCCOC1=C(C=CC(=C1)C#N)CCC(=O)OCC
reactant | triethylamine | 6.48 mmol, 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[4-cyano-2-(2-((1-(2-chloropyrimidine-4-yl)piperidine-4-carbonyl)amino)ethoxy)phenyl]propionate | C(#N)C1=CC(=C(C=C1)CCC(=O)OCC)OCCNC(=O)C1CCN(CC1)C1=NC(=NC=C1)Cl | C24H28ClN5O4
